US05354758
As shown in Scheme 2 (in FIG. 2), a solution of 100 g of 3,4-dimethylpyridine in 800 ml of acetone was added dropwise to 57.27 mL of methyl iodide. The reaction mixture was stirred at room temperature for 18 hrs. The solid was collected by filtration and washed with cold ether. After drying under vacuum, there was obtained 202 g of 1,3,4-trimethylpyridinium iodide. The subsequent Grignard reaction was conducted under standard conditions to afford an unstable intermediate that was utilized immediately.

reactant | 3,4-dimethylpyridine | 100 g | CC=1C=NC=CC1C | C7H9N
reactant | methyl iodide | 57.27 mL | CI | CH3I
solvent | acetone | 800 ml | CC(=O)C | C3H6O
product | 1,3,4-trimethylpyridinium iodide | 202 g | [I-].C[N+]1=CC(=C(C=C1)C)C | InChI=1S/C8H12N.HI/c1-7-4-5-9(3)6-8(7)2;/h4-6H,1-3H3;1H/q+1;/p-1
